US04789683
(-)-N-Ethyl-2-(3-bromo-2-hydroxy-6-methoxybenzamidomethyl)pyrrolidine hydrochloride
10.0 g (0.025 ml) of (-)-N-ethyl-2-(3-bromo-2,6-dimethoxybenzamidomethyl)pyrrolidine is dissolved in 250 ml of methylene chloride. 2.6 ml (0.027 mol) of boron tribromide is added. The mixture is left over night at room temperature. It is then washed with 2N NH3, dried over Na2SO4 and evaporated after addition of HCl-ether. The residue is dissolved in water and extracted with ether. The water phase is made alkaline with NH3 and is extracted with chloroform. The chloroform phase is dried over Na2SO4 and evaporated. To the residue is added HCl-ether. The salt is filtered off, washed with ether and dried over P2O5. M.p.: sinterring at 100° C. Yield 6.6 g. Hygroscopic [α]D20 =-45.5° (base).

reactant | (-)-N-ethyl-2-(3-bromo-2,6-dimethoxybenzamidomethyl)pyrrolidine | 0.025 ml, 10.0 g | C(C)N1C(CCC1)CNC(C1=C(C(=CC=C1OC)Br)OC)=O | C16H23BrN2O3
reactant | boron tribromide | 0.027 mol, 2.6 ml | B(Br)(Br)Br | BBr3
reactant | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | (-)-N-Ethyl-2-(3-bromo-2-hydroxy-6-methoxybenzamidomethyl)pyrrolidine hydrochloride | Cl.C(C)N1C(CCC1)CNC(C1=C(C(=CC=C1OC)Br)O)=O | InChI=1S/C15H21BrN2O3.ClH/c1-3-18-8-4-5-10(18)9-17-15(20)13-12(21-2)7-6-11(16)14(13)19;/h6-7,10,19H,3-5,8-9H2,1-2H3,(H,17,20);1H
